US04183752
88 g of p-tetradecyloxy-ω-bromoacetophenone are dissolved in 320 ml of anhydrous chloroform. 30.4 g of urotropine are added at room temperature. The solution heats up spontaneously. It is then stirred for 2 hours at room temperature. The chloroform is evaporated off and the solid residue is triturated with acetone. The crystalline precipitate is suction filtered and washed several times with acetone. The crude product is then introduced into a solution of 140 ml of concentrated hydrochloric acid in 1000 ml of ethanol and stirred for 24 hours at room temperature. The product is suction filtered and washed with a mixture of ethanol and concentrated hydrochloric acid (7:1). 80 g =95% of p-tetradecyloxy-ω-aminoacetophenone-hydrochloride melting at 190° to 195° C. are obtained.

reactant | p-tetradecyloxy-ω-bromoacetophenone | 88 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)C(CBr)=O | C22H35BrO2
reactant | urotropine | 30.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | chloroform | 320 ml | C(Cl)(Cl)Cl | CHCl3
product | p-tetradecyloxy-ω-aminoacetophenone-hydrochloride | 95% | Cl.C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)C(CN)=O | InChI=1S/C22H37NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-18-25-21-16-14-20(15-17-21)22(24)19-23;/h14-17H,2-13,18-19,23H2,1H3;1H
